Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Vicodin / Sustiva
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a PMH of HIV (Dx ___ not on ART d/t depression), anal
ASCUS s/p ablation, gastritis, presents as a transfer from ___
for ERCP (though not currently scheduled) with 2 days of
abdominal pain. 

First started to have nausea and emesis on ___. Yellow,
nonbloody. Pain started ___, throbbing in quality, constant,
continuing to present. Epigastric location. Does not vary with
food or positional changes. Still with intermittent nausea. 

Had a low back pain starting in ___ after a long shift in
which he had to lift lots of boxes and pick things up off the
ground. Has been taking motrin twice daily since, and
methacarbamol. No neuro deficits, falls, unsteadiness. No trauma
to area.

Also c/o 6 month Hx of frequent stools, occurring immediately
after he eats, leading to some decrease in PO intake, though
states he has lost only 6 pounds over this time.

Has a Hx of HIV and was previously on ART; pt states he stopped
about 4 months ago. Reason cited was depression.

At ___, elevated LFTs, lipase 600, +gallstones on RUQ US. Pt
received IVF, protonix, toradol, IV zosyn and was transferred to
___ for ERCP. 

___ records reviewed and summarized as follows: 
Seen in the ED ___ with the Hx described above. Got toradol,
zofran, 1L NS and protonix IV. Imaging as described below.
Surgical evaluation not sought. Transfer for ERCP evaluation

In ED:
VS: afeb,  HR ___ --> 145/113, 97% RA
ED Exam: diffuse abdominal TTP without rebound, guarding
Labs: CBC wnl (wbc 4), cr 0.8 other BMP unremarkable, ALT 233/
AST 227, AP 259, lipase 103
Imaging: CT a/p without acute or chronic pancreatitis; 
remarkable
for severe fatty liver
Received: 1L NS --> 200/hr
Pt NPO
Consult: ERCP asked for MRCP, only will scope if stones present

On floor arrival, pain is ___ in epigastrum, improved from 
___

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
HIV (dx ___ not on ART ___ depression for 4 months (pt
reports), remote EtOH/cocaine use, lumbar surgery for disc
disease, depression, possible gastritis, HTN, HLD, EBV
 
Social History:
___
Family History:
Brother- colon cancer, Mother- heart attack
 
Physical Exam:
ADMISSION EXAM:
VITALS: Afebrile and vital signs significant for tachycardia, 
SBP
170s 
GENERAL: Alert and in no apparent distress; mildly anxious 
affect
but NAD
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, mild epigastric, RUQ TTP.  
Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No ulcerations noted; macular rash on scalp
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VITALS: ___ 0735 Temp: 98.7 PO BP: 156/114 HR: 105 RR: 18 
O2
sat: 97% O2 delivery: Ra 
GENERAL: Alert and in no apparent distress; mildly anxious 
affect
but NAD
CV: Heart regular, tachycardic, no murmur, no S3, no S4.  No 
JVD.
RESP: good air movement, CTAB
GI: soft, ND, NT, +BS, no r/g
SKIN: No ulcerations noted; macular rash on scalp
 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:40PM    WBC-4.4  LYMPH-21 ABS LYMPH-924 CD3-79 ABS 
CD3-734 CD4-30 ABS CD4-281* CD8-48 ABS CD8-445 CD4/CD8-0.63*
___ 03:40PM   PLT COUNT-223
___ 03:40PM   ___ PTT-29.1 ___
___ 03:40PM   TRIGLYCER-143 HDL CHOL-72 CHOL/HDL-3.3 
LDL(CALC)-136*
___ 03:40PM   CALCIUM-9.4 PHOSPHATE-3.9 MAGNESIUM-2.0 
CHOLEST-237*
___ 03:40PM   LIPASE-103*
___ 03:40PM   GLUCOSE-98 UREA N-10 CREAT-0.8 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-20* ANION GAP-15
___ 03:40PM   ALT(SGPT)-233* AST(SGOT)-227* LD(LDH)-259* 
ALK PHOS-128 TOT BILI-1.1
___ 03:40PM   LIPASE-103*

INTERVAL DATA:
==============
___ 07:35AM BLOOD HIV1 VL-3.8*
___ 03:40PM BLOOD  WBC-4.4 Lymph-21 Abs ___ CD3%-79 Abs 
CD3-734 CD4%-30 Abs CD4-281* CD8%-48 Abs CD8-445 CD4/CD8-0.63*
___ 09:14PM BLOOD cTropnT-<0.01
___ 02:52PM BLOOD cTropnT-<0.01
___ 03:40PM BLOOD Triglyc-143 HDL-72 CHOL/HD-3.3 
LDLcalc-136*
___ 03:00AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-POS*
___ 03:00AM BLOOD HCV Ab-NEG

CT ABD AND PELVIS WITH CONTRAST 
INDICATION:  ___ with gallstone pancreatitis NO_PO contrast// 
evaluate GB, 
liver 

FINDINGS:  
LOWER CHEST: There is bibasilar atelectasis without focal 
consolidation.  No 
pleural pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: Liver demonstrates heterogeneously decreased 
attenuation, 
consistent with fatty liver.  No definite focal liver lesions.  
There is no evidence of intrahepatic or extrahepatic biliary 
dilatation.  The gallbladder contains gallstones without wall 
thickening or surrounding inflammation. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation.  There is no peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  There is no evidence of focal renal lesions 
or hydronephrosis.  There is no perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber, wall thickness, and 
enhancement throughout. The colon and rectum are within normal 
limits. The appendix is normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: Prostate is within normal limits for size.  
Seminal 
vesicles are unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.  Sclerotic lesions of the intertrochanteric 
region of the left femur likely represent small bone islands. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION:  
1. No definite etiology identified for abdominal pain.  No 
evidence of acute 
or chronic pancreatitis. 
2. Cholelithiasis without acute cholecystitis. 
3. Severe fatty liver.  See recommendations below. 
  
RECOMMENDATION(S):  Radiological evidence of fatty liver does 
not exclude 
cirrhosis or significant liver fibrosis which could be further 
evaluated by ___. This can be requested via the Liver 
Center (FibroScan) or the Radiology Department with either MR 
___ or US ___, in conjunction with a 
GI/Hepatology consultation" * 
  
* ___ et al. The diagnosis and management of nonalcoholic 
fatty liver disease: Practice guidance from the ___ 
Association for the Study of Liver Diseases.  Hepatology ___ 
67(1):328-357 

MRCP Abdomen
EXAMINATION:  MRI of the Abdomen without contrast 
  
INDICATION:  ___ year old man with ab pain, vomiting, 
cholelithiasis without-it 
is; CBD dilation c/f stone// ductal stone 
  
TECHNIQUE:  T1- and T2-weighted multiplanar images of the 
abdomen were 
acquired in a 1.5 T magnet.  The study was terminated early, 
because the was 
not feeling well, reporting high pulse, chest pain and high 
blood pressure.  
Therefore MRCP sequences, low flip angle in- and out-of phase 
sequences, and 
precontrast T1 weighted sequence were not performed. 
Intravenous contrast: None 
  
COMPARISON:  CT from ___.. 
  
FINDINGS:  
  
The patient was unable to complete the exam, somewhat limiting 
evaluation. 
  
Lower Thorax: There is no pleural effusion. 
  
Liver: There is hepatic steatosis, likely moderate or severe in 
degree.  No 
focal liver lesions are seen within limitations of a noncontrast 
study. 
  
Biliary: No dilation of the intrahepatic or extrahepatic bile 
ducts.  On this 
limited study, the common bile duct is normal without evidence 
of 
choledocholithiasis.  There are small gallstones within the 
gallbladder, 
largest measuring 5 mm.  There is no evidence of cholecystitis. 
  
Pancreas: The pancreas is normal in bulk and signal intensity.  
There is no 
peripancreatic stranding or fluid collection. 
  
Spleen: The spleen is normal in size and signal intensity. 
  
Adrenal Glands: The adrenals are normal in size and shape, 
without evidence of focal lesion. 
  
Kidneys: The kidneys are normal and symmetric in size, without 
evidence of 
focal lesion.  There is no hydronephrosis.  Proximal ureters are 
unremarkable. 
  
Gastrointestinal Tract:  The visualized small and large bowel 
are 
unremarkable. 
  
Lymph Nodes: There is no mesenteric or retroperitoneal 
lymphadenopathy. 
  
Vasculature: The aorta is nondilated.  The main portal vein and 
the hepatic veins demonstrate preserved flow voids. 
  
Osseous and Soft Tissue Structures: Bony structures are 
unremarkable. 
  
IMPRESSION:  
1.  Limited examination.  Cholelithiasis, without evidence of 
bile duct 
dilation or choledocholithiasis. 
2.  Hepatic steatosis, likely moderate or severe in degree. 
  
RECOMMENDATION(S):  Radiological evidence of fatty liver does 
not exclude 
cirrhosis or significant liver fibrosis which could be further 
evaluated by ___. This can be requested via the Liver 
Center (FibroScan) or the 
Radiology Department with either MR ___ or US 
___, in 
conjunction with a GI/Hepatology consultation" * 
  
* Chalasani et al. The diagnosis and management of nonalcoholic 
fatty liver disease: Practice guidance from the ___ 
Association for the Study of 
Liver Diseases.  Hepatology ___ 67(1):328-357 

DISCHARGE LABS:
===============
___ 02:52PM BLOOD WBC-4.9 RBC-4.82 Hgb-15.2 Hct-44.4 MCV-92 
MCH-31.5 MCHC-34.2 RDW-11.6 RDWSD-39.7 Plt ___
___ 02:52PM BLOOD Neuts-67.2 ___ Monos-11.0 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-3.29 AbsLymp-1.03* 
AbsMono-0.54 AbsEos-0.02* AbsBaso-0.01
___ 02:52PM BLOOD Plt ___
___ 03:00AM BLOOD Glucose-132* UreaN-5* Creat-0.6 Na-134* 
K-3.8 Cl-98 HCO3-23 AnGap-13
___ 03:00AM BLOOD ALT-175* AST-135* AlkPhos-115 TotBili-1.0
___ 03:00AM BLOOD Calcium-9.0 Phos-3.5 Mg-2.___ with a PMH of HIV (Dx ___ not on ART d/t depression), anal
ASCUS s/p ablation, HTN, HLD, gastritis, depression who 
initially
presented to ___ with abdominal pain, found to have 
transaminitis, 
elevated lipase, ultrasound with cholelithiasis, findings 
concerning for gallstone pancreatitis for which he was 
transferred to ___ for ERCP.  At ___ his abdominal pain 
improved and his LFTs down-trended without intervention.  MRCP 
did not show any biliary ductal dilation or choledocholithiasis. 
 He likely passed the gallstone spontaneously. 

# Gallstone pancreatitis:  
- Suspected based on presentation with abdominal pain, elevated 
lipase (>500 at ___, transaminitis, abdominal imaging showing 
cholelithiasis
- At ___, his LFTs and lipase were down trending, likely 
consistent with passed stone
- MRCP without evidence of choledocholithiasis or ductal 
dilation
- ERCP team and Acute Care Surgery team consulted 
- Surgical team ultimately recommended cholecystectomy as 
outpatient after re-initiation of ARVs for HIV
- That patient improved with bowel rest, IV fluids and PO 
Tylenol (he reports poor tolerance of opioids)
- He was tolerating a low fat, regular diet by the time of 
discharge
- He was given the phone number for our surgical team
- Of note, hepatitis testing was sent during this admission.  
Hep B and Hep C results were negative.  He tested positive for 
Hep A IgG though Hep A IgM pending.  

# HIV: 
- Patient reported being off ARVs x 4 months due to depression
- CD4 281, VL 3.8 upon testing here
- After further discussions, patient is agreeable to 
re-establishing care with his outpatient ID doctor
- We were unable to schedule appointment due to holiday but 
patient was encouraged to call on ___ to set-up appointment

# History of chronic loose stools
- Patient reported loose, non-bloody stools over the last 6 
months
- He did not have any further episodes while in the hospital
- CD4 decreased at 281 though unlikely to have opportunistic 
infection at this level
- Advised patient to monitor symptoms and address with PCP if 
ongoing at follow-up with PCP

# HTN - poorly controlled 
- Systolics elevated to 160s-170s with elevated diastolics 
110-130
- He was started on labetalol 100 BID which can be uptitrated 
outpatient as needed

# NAFLD: 
- He was noted to have severe fatty liver on abdominal imaging.  
His labs show intact
synthetic function.  He should have an outpatient fibro scan for 
further evaluation.

# Depression: 
- Patient reports history of depression though current mood was 
good, denied SI
- He sees a counselor regularly and expressed motivation to 
continue counseling

TRANSITIONAL ISSUES:
[] Re-start ARVs for HIV 
[] Needs cholecystectomy when better HIV control
[] Fibro scan for further assessment of fatty liver seen on 
abdominal CT scan
[] Up titration of blood pressure medications
 
Medications on Admission:
Patient was off all of his medications 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth q8 hours PRN Disp 
#*30 Tablet Refills:*0 
2.  Labetalol 100 mg PO BID 
RX *labetalol 100 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gallstone pancreatitis
HIV
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You came to the hospital with abdominal pain and were found to 
have "gallstone pancreatitis."  You have stones in your 
gallbladder which likely blocked the pancreatic duct.  You 
improved with only supportive care and passed the stone on your 
own.  However, you are at increased risk to have this happen 
again and we recommend you have your gallbladder removed.  You 
were seen by our Surgery team who recommended you have the 
gallbladder removed after restarting treatment for HIV and 
improving your HIV control.  Please arrange to have your 
gallbladder removed with your PCP.

It is imperative that you follow-up with your primary care 
doctor and your infectious disease doctor to re-start treatment.

Please eat a low fat diet (no fried food) and do not drink 
alcohol.

You are being started on a medication for blood pressure.  Your 
blood pressure was very high while you were in the hospital.

It was a pleasure taking care of you at ___.
 
Followup Instructions:
___